US06914074B2
6-(2-Fluoro-4-hydroxyphenyl)-2-naphthol
The title compound was prepared by 2-(2-fluoro-4-methoxyphenyl)-6-methoxynaphthalene (1.12 g, 3.97 mmol) with boron tribromide (23.8 mL of 1.0 M solution in CH2Cl2, 23.8 mmol) according to method D to yield 0.92 g (91%) of a white solid: mp 208-209° C.; 1H NMR (DMSO-d6): δ 6.66-6.75 (2H, m), 7.08-7.13 (2H, m), 7.41 (1H, dd, J=9.37 Hz, J=8.57 Hz), 7.49-7.53 (1H, m), 7.72 (1H, d, J=8.64 Hz), 7.80 (1H, d, J=8.76 Hz), 7.86 (1H, s), 9.79 (1H, s), 10.01 (1H, s); MS (ESI) m/z255 (M+H)+, MS (ESI) m/z253 (M−H)−.

reactant | 2-(2-fluoro-4-methoxyphenyl)-6-methoxynaphthalene | 3.97 mmol, 1.12 g | FC1=C(C=CC(=C1)OC)C1=CC2=CC=C(C=C2C=C1)OC | C18H15FO2
reactant | boron tribromide | 23.8 mmol, 1.0 M, 23.8 mL | B(Br)(Br)Br | BBr3
product | 6-(2-Fluoro-4-hydroxyphenyl)-2-naphthol | FC1=C(C=CC(=C1)O)C=1C=C2C=CC(=CC2=CC1)O | C16H11FO2
